US05079363
Over a period of several minutes 0.0075 mole of tert.butyllithium (4.41 ml of a 1.7 molar solution in pentane) are added to a solution of 1.041 g (0.005 mole) of 3-diethylaminocarbonyl 2-methoxy pyridine and 1.13 ml (0.0075 mole) of tetramethylethylenediamine in 15 ml of tetrahydrofuran cooled to -80° C. while the temperature is maintained below -80° C. After 20 minutes at this temperature, an orange-colored solution of 3-diethylaminocarbonyl 4-lithio 3-methoxy pyridine is obtained which is used as such.

reactant | tert.butyllithium | 0.0075 mole | C(C)(C)(C)[Li]
reactant | 3-diethylaminocarbonyl 2-methoxy pyridine | 0.005 mole, 1.041 g | C(C)N(C(=O)C=1C(=NC=CC1)OC)CC | C11H16N2O2
reactant | tetramethylethylenediamine | 0.0075 mole, 1.13 ml | CN(CCN(C)C)C | C6H16N2
reactant | tetrahydrofuran | 15 ml | O1CCCC1 | C4H8O
solvent | pentane | CCCCC | C5H12
product | 3-diethylaminocarbonyl 4-lithio 3-methoxy pyridine | C(C)N(C(=O)C1(CN=CC=C1[Li])OC)CC | InChI=1S/C11H17N2O2.Li/c1-4-13(5-2)10(14)11(15-3)7-6-8-12-9-11;/h6,8H,4-5,9H2,1-3H3;
